US04153719
A mixture of 5.7 g. (0.025 m) of 4-chloro-4'-methylstilbene (m.p. 196°-197° C.) and 4.43 g. (0.025 m) of N-bromosuccinimide in 124 ml. of carbon tetrachloride was heated at reflux for eight hours. The reaction mixture was filtered hot, allowed to cool and stand overnight and again filtered to remove a small amount of amorphous material. The solvent was removed in vacuo and the residue crystallized from cyclohexane to give 4-(4-chlorostyryl)benzyl bromide, m.p. 130°-132° C. in 85% yield.

reactant | 4-chloro-4'-methylstilbene | ClC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C | C15H13Cl
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-chlorostyryl)benzyl bromide | 85% yield | ClC1=CC=C(C=CC2=CC=C(CBr)C=C2)C=C1 | C15H12BrCl
